* Copyright (c) 2017 Linear Technology Corporation.  All rights reserved.
* Author: Dan Eddleman
*
* Automotive Transient Models (ISO-7637-2)
***************************************************************

.subckt Pulse1_12V + -
.param  Ua = 13.5
.param  Us = -150
.param  Ri = 10
.param  td = 2m
.param  tr = 1u
.param  t1 = 0.5
.param  t2  = 200m
.param  t3 = 50us
.param  t0 = 1m
R2 + - {Ri}
I1 - + EXP(0 {Us/Ri} {t0+t3} {tr/2.2} {t0+t3+(5*tr)} {td/2.305} {t1})
I2 - + PULSE({Ua/Ri} 0 {t0} 1u 1u {t2} {t1})
.ends Pulse1_12V

.subckt Pulse1_24V + -
.param  Ua = 27
.param  Us = -600
.param  Ri = 50
.param  td = 1m
.param  tr = 3u
.param  t1 = 0.5
.param  t2  = 200m
.param  t3 = 50us
.param  t0 = 1m
R2 + - {Ri}
I1 - + EXP(0 {Us/Ri} {t0+t3} {tr/2.2} {t0+t3+(5*tr)} {td/2.305} {t1})
I2 - + PULSE({Ua/Ri} 0 {t0} 1u 1u {t2} {t1})
.ends Pulse1_24V

.subckt Pulse2a_12V + -
.param Ua = 13.5
.param Us = 112
.param Ri = 2
.param td = 50u
.param tr = 1u
.param t1 = 0.2
.param t0 = 1m
R1 + - {Ri}
I3 - + EXP({Ua/Ri} {(Ua+Us)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1})
.ends Pulse2a_12V


.subckt Pulse2a_24V + -
.param Ua = 27
.param Us = 112
.param Ri = 2
.param td = 50u
.param tr = 1u
.param t1 = 0.2
.param t0 = 1m
R1 + - {Ri}
I3 - + EXP({Ua/Ri} {(Ua+Us)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1})
.ends Pulse2a_24V

.subckt Pulse2b_12V + -
.param Ua = 13.5
.param Us = 10
.param Ri = 0.05
.param td = 0.2
.param tr = 1m
.param t12 = 1m
.param t6=1m
.param t0 = 1m
.param ton=1
.param trep = 5
R1 + - {Ri}
I3 - + EXP(0 {Us/Ri} {t0+t12+t6} {tr/2.2} {t0+t12+(2*tr)} {td/2.305} {trep})
I1 - + PULSE({Ua/Ri} 0 {t0} {t12} {t12} {trep-ton} {trep})
.ends Pulse2b_12V

.subckt Pulse2b_24V + -
.param Ua = 27
.param Us = 20
.param Ri = 0.05
.param td = 0.2
.param tr = 1m
.param t12 = 1m
.param t6=1m
.param t0 = 1m
.param ton=1
.param trep = 5
R1 + - {Ri}
I3 - + EXP(0 {Us/Ri} {t0+t12+t6} {tr/2.2} {t0+t12+(2*tr)} {td/2.305} {trep})
I1 - + PULSE({Ua/Ri} 0 {t0} {t12} {t12} {trep-ton} {trep})
.ends Pulse2b_24V

.subckt Pulse3a_12V + -
.param  Ua = 13.5V
.param  Us = -220V
.param  Ri = 50
.param  td = 150ns
.param  tr = 5ns
.param  t1 = 100u
.param  t4 = 10ms
.param  t5 = 90ms
.param  t0 =  1ms
R2 + - {Ri}
I1 - + EXP({Ua/Ri} {(Us+Ua)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1} {t4/t1} {(t4+t5)})
.ends Pulse3a_12V

.subckt Pulse3a_24V + -
.param  Ua = 27V
.param  Us = -300V
.param  Ri = 50
.param  td = 150ns
.param  tr = 5ns
.param  t1 = 100u
.param  t4 = 10ms
.param  t5 = 90ms
.param  t0 =  1ms
R2 + - {Ri}
I1 - + EXP({Ua/Ri} {(Us+Ua)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1} {t4/t1} {(t4+t5)})
.ends Pulse3a_24V

.subckt Pulse3b_12V + -
.param  Ua = 13.5
.param  Us = 150
.param  Ri = 50
.param  td = 150n
.param  tr = 5n
.param  t1 = 100u
.param  t4 = 10m
.param  t5 = 90m
.param  t0 =  1m
R1 + - {Ri}
I2 - + EXP({Ua/Ri} {(Us+Ua)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1} {t4/t1} {(t4+t5)})
.ends Pulse3b_12V

.subckt Pulse3b_24V + -
.param  Ua = 27
.param  Us = 300
.param  Ri = 50
.param  td = 150n
.param  tr = 5n
.param  t1 = 100u
.param  t4 = 10m
.param  t5 = 90m
.param  t0 =  1m
R1 + - {Ri}
I2 - + EXP({Ua/Ri} {(Us+Ua)/Ri} {t0} {tr/2.2} {t0+(2*tr)} {td/2.305} {t1} {t4/t1} {(t4+t5)})
.ends Pulse3b_24V
